Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lower Extremity Swelling
 
Major Surgical or Invasive Procedure:
___ Left Heart, Coronary, and Right Heart Catheterization

 
History of Present Illness:
Ms. ___ is a ___ y/o woman with Asthma, morbid obesity, and 
multiple joint replacements ___ DJD with associated chronic ___ 
skin changes, presenting for acute-on-chronic ___ swelling and 
erythema.

The patient states that about 6 days prior to presentation, she 
began feeling weakness and fatigue with chills and fevers up to 
___. She had some nausea as well and noticed increasing 
swelling as well as erythyma in her b/l ___. She does endorse 
warmth, erythema, and pain first in the LLE and subsequently 
developing in the RLE. She also notes some increased DOE during 
this period (none prior) as well as possible weight gain in 
recent months (although she attributes much of this to 
inactivity ___ knee replacement). She has not had any PND, 
orthopnea, or history of heart failure/heart disease.

She called her PCP 3 day prior to admission and was placed on 
cephalexin therapy, with near immediate resolution in her fevers 
and other constitutional symptoms. Her ___ swelling and redness, 
however, persisted, prompting her to present to the ___ 
ED. Of note, the patient has had multiple acupuncture treatments 
in b/l knees, most recently about 1 week prior to admission.

In the OSH ED, the patient did have XRs ___ and chest and was 
transferred to ___ out of concern for spread of infection to 
her multiple joint prostheses.

At ___, she has been VSS with notable for unremarkable in b/l 
knees. She did have WBC of 13 with BUN/Cr of 1 and was given 1g 
of Vancomycin in the ED before being admitted to medicine for 
further care.

On the floor, the patient confirms that she has had swelling in 
her legs every since she has had her multiple knee replacements, 
most noticeably since she had the complications from her R TKR 
in ___. She was placed on a pump attached to leg stockings to 
help with her swelling. This works but only transiently and 
makes her urinate frequently. Currently, she denies any f/c/r, 
chest pain, SOB, N/V, abd pain. She denies any recent dysuria, 
cough, or other localizing symptoms apart from her increased ___ 
swelling. Both her legs are still more swollen than usual and 
she feels that they are still more red than before, albeit color 
has improved.

 
Past Medical History:
-Congestive Heart Failure with preserved LVEF and severe RV 
hypertrophy and systolic dysfunction
- asthma  
- Hypertension  
- GERD  
- T2DM, diet-controlled  
- overactive bladder  
- chronic bilat ___ edema  
- L TKR without complication  
- R THR without complication  
- R TKR ___ @ ___ complicated by prosthetic infection 
requiring ___ ___ @ ___ after months of IV antibiotics, 
she then had revision R TKR ___ @ ___ c/b poor wound 
healing, ultimately necessitating flap repair by plastics (___) that was unsuccessful. She underwent hyperbaric O2 therapy 
with wound healing  
 
Social History:
___
Family History:
multiple strokes in mother's side  
mother died from a stroke  
no family history of heart disease otherwise
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.2 119/44 95 18 95 on RA
GEN: pleasant, well-appearing, obese, NAD, lying near flat in 
bed; snoring initially prior to being woken up for history
NECK: JVP up to 12cm. No palpable LAD.
HEENT: NC/AT, no scleral icterus, PERRLA, MMM, OP clear  
CV: RRR. normal s1s2. distant heart sounds. no murmurs 
appreciated.
LUNGS: breathing comfortably on RA lying still in bed. Lungs 
CTAB with fair air movement. No crackles, rhonchi, or wheezing.
ABD: obese, otherwise soft ntnd, BS+
EXTR: WWP; b/l lower extremities about symmetric in size; 
pitting edema along b/l ___ up to proximal thighs; ROM in b/l ___ 
intact passively, not limited by pain; b/l ___ mildly tender to 
palpation
NEURO: AOx3, appropriately interactive, no focal deficits 
appreciated. 
SKIN: bilateral LEs with overlying hyperpigmentation of the LEs, 
coarse scaling, faint erythema (unable to appreciate any changes 
in skin color with elevation), and a few areas of weeping and 
crusting on both LEs below the knee. LLE with bandage over shin; 
scars c/w b/l TKR as above
ACCESS: PIVs

DISCHARGE PHYSICAL EXAM:
VS: 98.5 ___ 110s-120s/___-60s ___ 92-95% RA,2L,CPAP
Weight: 115.7kg <- 115.3kg <- 115.5kg <- 115 kg <- 115.3 kg 
(___) <- 117.9 kg (___) <- 118.3 kg (___) <- 124.8 kg 
(admission weight)
I/O: ___ ___
GEN: NAD sitting in chair
NECK: JVP 9 cm H2O.  
CV: RRR, S1 and S2. distant heart sounds. no murmurs 
appreciated.
LUNGS: CTAB with fair air movement. No crackles, rhonchi, or 
wheezing.
ABD: Obese, otherwise soft,  NT, ND, BS+
EXTR: WWP; b/l lower extremities about symmetric in size; 2+ 
pitting edema along b/l ___ up to knees; trace edema up to 
thighs; b/l ___ mildly tender to palpation
NEURO: AOx3, appropriately interactive, no focal deficits 
appreciated.
SKIN: bilateral LEs with overlying hyperpigmentation of the LEs, 
coarse scaling, faint erythema below the knee. scars c/w b/l TKR 
as above
 
Pertinent Results:
ADMISSION LABS:
___ 03:15AM BLOOD WBC-13.2* RBC-4.54 Hgb-12.6 Hct-39.8 
MCV-88 MCH-27.8 MCHC-31.7* RDW-15.5 RDWSD-49.7* Plt ___
___ 03:15AM BLOOD Neuts-91* Bands-1 Lymphs-4* Monos-3* 
Eos-0 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-12.14* 
AbsLymp-0.53* AbsMono-0.40 AbsEos-0.00* AbsBaso-0.00*
___ 03:15AM BLOOD Glucose-122* UreaN-33* Creat-1.0 Na-138 
K-4.3 Cl-102 HCO3-24 AnGap-16

OTHER IMPORTANT LABS:
___ 03:15AM BLOOD proBNP-400
___ 03:15AM BLOOD Cholest-119
___ 03:15AM BLOOD Triglyc-88 HDL-31 CHOL/HD-3.8 LDLcalc-70 
LDLmeas-59
___ 03:15AM BLOOD %HbA1c-6.5* eAG-140*
___ 03:15AM BLOOD VitB12-GREATER TH Folate-GREATER TH
___ 08:15AM BLOOD TSH-2.0
___ 08:15AM BLOOD T4-7.6
___ 03:15AM BLOOD 25VitD-30

MICROBIOLOGY:
___ Blood Culture x2: Negative

IMAGING AND OTHER STUDIES:
___ LENIs:
1. No evidence of deep venous thrombosis in the right or left 
lower extremity veins.
2. Technically inadequate evaluation of the bilateral posterior 
tibial and peroneal veins.

___ PA/LAT CXR:
Lungs are clear generally and reasonably well expanded.  However 
on the lateral view there is the suggestion of a 2.6 cm wide 
elliptical opacity projecting over the ascending thoracic aorta 
that could be a calcified atherosclerotic plaque or a subtle 
lung lesion.  Oblique views are recommended for clarification.

Elevation of the left hemidiaphragm is mild, probably a function 
of intestinal distention.  Heart size is top-normal.  There is 
no mediastinal, hilar, or pleural abnormality.

___ TTE:
The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is normal 
(LVEF = 70%). The right ventricular free wall is hypertrophied. 
The right ventricular cavity is dilated with severe global free 
wall hypokinesis. The aortic arch is mildly dilated. There are 
focal calcifications in the aortic arch. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. At least mild-to-moserate tricuspid regurgitation is 
present (may be significantly underestimated due to far field 
attenuation). There is borderline pulmonary artery systolic 
hypertension. There is no pericardial effusion. There is an 
anterior space which most likely represents a prominent fat pad. 


___ Persanthine Stress: No anginal symptoms or ischemic ST 
segment changes.
Appropriate hemodynamic response to the Persantine infusion. 
Nuclear
report sent separately.

___ P-MIBI:
1. Mild perfusion defect in the mid and distal anteroseptum has 
a 
typical appearance for attenuation, however given apparent 
reversibility on rest images, it is difficult to exclude on 
underlying genuine perfusion defect.    
2. Normal left ventricular cavity size and systolic function. 

___ PFTs
Impression: Moderate obstructive ventilatory defect. Lung 
volumes and gas exchange are within normal limits. There are no 
prior studies available for comparison.

___ CHEST (PA, LAT AND OBLIQUES):
Heart size and mediastinum are stable.  Lungs are essentially 
clear.  Right mid lung area of scarring is unchanged.  There is 
no pleural effusion or pneumothorax. 

___ Right and Left Cardiac Catheterization
Impressions:
1. Normal right and left heart filling pressures
2. Normal coronary arteries

DISCHARGE LABS:
___ 07:50AM BLOOD WBC-6.2 RBC-4.42 Hgb-12.0 Hct-39.2 MCV-89 
MCH-27.1 MCHC-30.6* RDW-14.8 RDWSD-47.6* Plt ___
___ 07:50AM BLOOD Glucose-141* UreaN-38* Creat-0.8 Na-140 
K-4.8 Cl-98 HCO3-31 AnGap-16
___ 07:50AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.1
 
Brief Hospital Course:
This is a ___ year old female with past medical history of morbid 
obesity, diabetes type 2, COPD, admitted ___ with right 
lower extremity cellulitis and acute right heart failure, course 
notable for diuresis (123.5 kg to 115 kg), with 
subsequent heart failure workup without signs of primary 
pulmonary hypertension or obstructive CAD, now clinically 
improved and medically ready for discharge with close cardiology 
follow-up.  

# Acute-On-Chronic diastolic CHF exacerbation with Right Heart 
Failure: The patient presented with a history of chronic ___ 
edema since complications of prior knee surgeries. She had 
notable venous stasis changes in her skin suggesting a chronic 
process. Given the patient's history of subacute progression of 
her ___ edema, there was concern for a superimposed process. She 
also had significantly elevated JVP on exam without any signs of 
pulmonary edema or significant respiratory symptoms, concerning 
for possible RHF. She underwent TTE showing preserved LVEF 
(>70%) but severely dilated and hypertrophied RV with global 
hypoactivity in no particular vascular distribution. In order to 
help work-up this new-onset heart failure, she also underwent 
P-MIBI showing possible small region of reversible ischemia in 
the mid-to-distal LAD territory as well as PFTs, with only mild 
obstructive and restrictive disease. She was evaluated by 
cardiology, who took her for RHC and LHC, showing normal filling 
pressures and coronary arteries. Most likely, she had 
acute-on-chronic, undiagnosed heart failure triggered by recent 
cellulitis. She was diuresed aggressively with IV lasix from 
admission weight of 124.8kg to 115.7 kg.  She was discharged on 
10 mg oral furosemide daily.

# Left Lower Extremity Cellulitis: The patient presented with 
history concerning for initial unilateral swelling and erythema, 
consistent with LLE cellulitis. She underwent ___ duplex without 
any signs of DVT. She had already initiated outpatient course of 
keflex for this infection, which was completed in the hospital 
for total of ___ased on clinical improvement of her 
symptoms.

# Nocturnal Hypoxemia consistent with likely Obstructive Sleep 
Apnea: While in the hospital, the patient was noticed to have 
nocturnal desaturations to the mid-to-high 80's on RA, requiring 
2L NC. Given her body habitus and asymptomatic nocturnal 
desaturations, the patient likely has some component of OSA, 
also undiagnosed. She trialed CPAP in the hospital and will have 
follow up with sleep medicine for consideration of CPAP as an 
outpatient.

# Asthma: The patient was continued on her home Advair during 
this admission.

# Type 2 Diabetes Mellitus: The patient had a history of T2DM, 
well controlled with diet alone. She was found to have an HbA1c 
of 6.5% this admission and was not initiated on any 
anti-hyperglycemic therapy during this admission.

# ASCVD primary prevention: The patient was found to have an 
ASCVD risk score >10%, even with optimized risk factors.  She 
continued on ASA81 and was transitioned from simvastatin 20 mg 
per day to atorvastatin 20 mg per day.

# GERD: She was continued on her home omeprazole 20mg PO BID 
during this admission.

# HTN: The patient was continued on her home lisinopril during 
this admission but at a lower dose, initially due to concern for 
sepsis and subsequently to facilitate blood pressure room for 
aggressive diuresis. On discharge she was on lisinopril 2.5 mg 
per day and metoprolol succinate 25 mg per day.
 
# Bladder Spasm: The patient was continued on her home 
oxybutynin during this admission.

Transitional Issues:
- Discharge weight 115.7 kg
- Given high suspicion for OSA, patient scheduled for outpatient 
sleep evaluation 
-Discharged on 10 mg Lasix daily
-Discharged on 25 mg metoprolol daily
-Discharged on 20 mg atorvastatin daily (simvastatin 20 mg daily 
discontinued)
-Contact: ___ (friend) ___
-Code: Full
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH DAILY 
2. Simvastatin 20 mg PO QPM 
3. Lisinopril 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. Oxybutynin 5 mg PO BID 
7. Ascorbic Acid ___ mg PO BID 
8. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
9. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH DAILY 
4. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Oxybutynin 5 mg PO BID 
8. Furosemide 10 mg PO DAILY 
RX *furosemide 20 mg 0.5 (One half) tablet(s) by mouth daily 
Disp #*15 Tablet Refills:*0
9. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit oral DAILY 
10. Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
11. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# Acute-On-Chronic diastolic CHF exacerbation with Right Heart 
Failure
# Left Lower Extremity Cellulitis
# Nocturnal Hypoxemia consistent with likely Obstructive Sleep 
Apnea
# Asthma
# Type 2 Diabetes Mellitus
# ASCVD primary prevention
# GERD
# HTN
# Bladder Spasm
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted because of increasing swelling in your legs 
and difficulty with your breathing. You most likely had an 
infection of your leg (cellulitis), which cause the initial 
redness of your left leg. However, you were also diagnosed with 
congestive heart failure based on a picture of your heart 
(transthoracic echocardiograph). This means that the squeezing 
function of your heart is poor. This was most likely what was 
causing most of the swelling in both your legs.

In the hospital, you were given medications (Lasix) to remove 
all the extra fluid from your body.  At home, you should take 10 
mg of Lasix each day.  You should also take 25 mg of metoprolol 
each day.  You should stop taking simvastatin 20 mg per day and 
start taking 20 mg of atorvastatin instead.  Please take your 
weight every ___ days and let your physician know if you gain 
more than 3 pounds in 5 days.

You should follow up with your primary care physician, 
___, and sleep medicine.
 
Followup Instructions:
___